US03962443
Ethyl 5-ethoxy-2-(4-methyl-1-piperazinyl)pyrido[ 2,3-d]pyrimidine-6-carboxylate.
A mixture containing 3.0 g of ethyl 5-chloro-2-(4-methyl-1-piperazinyl)pyrido[2,3-d]pyrimidine-6-carboxylate, 0.7 g of sodium ethoxide, and 50 ml of absolute ethanol was heated to reflux for 2 hours. The ethanol was removed by distillation in vacuo, the residue was extracted with chloroform and the extract washed with water, and dried over anhydrous magnesium sulfate. After the solvent was distilled off the residue was crystallized from n-hexane to give 2.8 g of the product as pale yellow needles, m.p. 105° - 108°C.

reactant | ethyl 5-chloro-2-(4-methyl-1-piperazinyl)pyrido[2,3-d]pyrimidine-6-carboxylate | 3.0 g | ClC1=C(C=NC=2N=C(N=CC21)N2CCN(CC2)C)C(=O)OCC | C15H18ClN5O2
reactant | sodium ethoxide | 0.7 g | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 5-ethoxy-2-(4-methyl-1-piperazinyl)pyrido[ 2,3-d]pyrimidine-6-carboxylate | 2.8 g | C(C)OC1=C(C=NC=2N=C(N=CC21)N2CCN(CC2)C)C(=O)OCC | C17H23N5O3
